US04472404
A mixture of 15.9 g of 2-methyl-8-hydroxyquinoline, 13.6 g of ethyl isocyanatoacetate and 10 drops of dibutyltin dilaurate in 200 ml of methyl ethyl ketone was heated at reflux temperature for seven hours, after which the solvent was removed by evaporation in vacuo leaving a solid residue. The residue was recrystallized from toluene to give the desired ethyl N-(((2-methyl-8-quinolinyl)oxy)carbonyl)glycinate as light tan crystals, m.p. 118°-120° C.

reactant | 2-methyl-8-hydroxyquinoline | 15.9 g | CC1=NC2=C(C=CC=C2C=C1)O | C10H9NO
reactant | ethyl isocyanatoacetate | 13.6 g | N(=C=O)CC(=O)OCC | C5H7NO3
catalyst | dibutyltin dilaurate | 10 drops | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | ethyl N-(((2-methyl-8-quinolinyl)oxy)carbonyl)glycinate | CC1=NC2=C(C=CC=C2C=C1)OC(=O)NCC(=O)OCC | C15H16N2O4
